### PR TITLE
feat: bump lean version to 4.29.0

### PR DESCRIPTION
**Pull request by dhsorens**
UPDATE - this PR updates to 4.29.0. See comments below. Originally this PR was meant to bump to v4.29.0-rc6

# Comments starting from v4.29.0-rc6 update

Thanks Claude! Bumps to v4.29.0-rc6

## CHANGELOG
- Lean `v4.28.0` → `v4.29.0-rc6`; Mathlib `v4.28.0` → `v4.29.0-rc6`; ExtTreeMapLemmas `v4.28.0-patch-1` → `v4.29.0-rc6` (`lean-toolchain`, `lakefile.lean`, `lake-manifest.json`).
- 36 Lean files touched: mostly tactic/instance fixes (`rw` → `erw`, `Quotient.eq` → `Quotient.sound` on quotient descent lemmas, stricter `simp` → dropped unused args, `simp (config := { failIfUnchanged := false })`, higher `maxHeartbeats` / `maxSteps` where needed).
- `set_option backward.isDefEq.respectTransparency false` (file-scoped): `Fields/Binary/Tower/Concrete/{Field,Algebra,Basis}.lean`, `Fields/Binary/Tower/Equiv.lean`; scoped on theorems in `Tower/Abstract/Basis.lean`, `Tower/Support/Preliminaries.lean`, `ToMathlib/MvPolynomial/Equiv.lean` (`support_finSuccEquivNth`).
- `@[reducible]` added on various class-valued defs (e.g. `Data/RingTheory/AlgebraTower.lean` `toAlgebra` + `AlgebraTowerEquiv` algebra defs; abstract/concrete binary tower algebra/module/scalar-tower helpers; `Concrete/Core` `mkAddCommGroup`/`mkRing`/`mkDivisionRing`/`mkField`; `Concrete/Field` `liftConcreteBTField`).
- `noncomputable`: `CBivariate.ofPoly`; `CMvPolynomial.degreeOf` / `degrees` / `vars`; `getBTFResult`; `Fintype` instances for `ConcreteBTField k` and test `BTF₃`.
- `Lawful.lean` / `Unlawful.lean`: `set_option allowUnsafeReducibility true` + `attribute [local reducible] instDecidableEqOfLawfulBEq`; `mem_iff` / `zero_eq_empty` proof tweaks.
- Mathlib renames in proofs: `Nat.cast_le` → `ENat.coe_le_coe` (ENat floor lemma); `Array.sum_eq_sum_toList` → `Array.sum_toList`; `List.extract_eq_drop_take` → `List.extract_eq_take_drop`.
- `ENNReal.mul_inv_rev_ENNReal`: statement now only `ha : a ≠ 0` (drops `hb`); proof via `ENNReal.mul_inv`.
- Binary tower / GHASH / NTT / multilinear / mv poly equiv: assorted `erw`, `convert`, `conv`, and `simp` list edits; `NovelPolynomialBasis`: `degree_Xⱼ` WithBot cast path reworked, redundant `CoeffVecSpace` `AddCommGroup` instance removed, `toCoeffsVec.map_smul'` unfolded; `Split.lean` `unique_linear_decomposition_succ` and `split_algebraMap_eq_zero_x` proofs reworked.
- `Multivariate/MvPolyEquiv/Instances.lean`: `Finsupp.single`/`single_eq_*` steps adjusted for new simp behavior.
- `Rename.lean`: `toFinsupp_zero` finishes with `Vector.getElem_zero`.
- Tests `Univariate/Linear.lean`: test-local `BEq` defs `@[reducible]`; `LawfulBEq` proofs use `erw` on `beq` unfolds.

### CODE REVIEW

File: tests/CompPolyTests/Univariate/Linear.lean [hunk 1]
```diff
@@ -14,25 +14,23 @@ import CompPoly.Univariate.ToPoly.Degree
 namespace CompPoly
 namespace CPolynomial
 
-private def natBeqEq : BEq Nat := ⟨fun a b => decide (a = b)⟩
+@[reducible] private def natBeqEq : BEq Nat := ⟨fun a b => decide (a = b)⟩
```
Comment (dhsorens) [inline tests/CompPolyTests/Univariate/Linear.lean]: note that these `@[reducible]` tags are for definitions whose codomains are typeclasses. a new Lean compiler warning. `@[reducible]` is stronger than `@[implicit_reducible]` - if we run into performance issues we may want to replace `@[reducible]` instances with `@[implicit_reducible]`

File: CompPoly/Data/Nat/Bitwise.lean [hunk 2]
```diff
@@ -49,29 +49,11 @@ variable {a b c d : ℝ≥0∞} {r p q : ℝ≥0}
...
-    rw [coe_inv (hr := (mul_ne_zero_iff_right hb_NNReal_ne0).mpr (ha_NNReal_ne0))]
-    simp only [coe_mul, coe_natCast]
-  rw [hlhs, hrhs]
-  rw [mul_inv_rev (a := (a : ℝ≥0)) (b := (b : ℝ≥0))]
-  rw [coe_mul, mul_comm]
+theorem ENNReal.mul_inv_rev_ENNReal {a b : ℕ} (ha : a ≠ 0) :
+    ((a : ENNReal)⁻¹ * (b : ENNReal)⁻¹) = ((a : ENNReal) * (b : ENNReal))⁻¹ :=
+  (ENNReal.mul_inv
+    (Or.inl (Nat.cast_ne_zero.mpr ha))
+    (Or.inl (ENNReal.natCast_ne_top a))).symm
```
Comment (dhsorens) [inline CompPoly/Data/Nat/Bitwise.lean:56]: just want to flag this to be checked as an okay change @quangvdao - the removed argument was unused

File: CompPoly/Fields/Binary/AdditiveNTT/Impl.lean [hunk 3]
```diff
@@ -399,7 +399,7 @@ abbrev BTF₃ := ConcreteBTField 3 -- 8 bits
 instance : NeZero (2^3) := ⟨by norm_num⟩
 instance : Field BTF₃ := instFieldConcrete
 instance : DecidableEq BTF₃ := (inferInstance : DecidableEq (ConcreteBTField 3))
-instance : Fintype BTF₃ := (inferInstance : Fintype (ConcreteBTField 3))
+noncomputable instance : Fintype BTF₃ := (inferInstance : Fintype (ConcreteBTField 3))
```
Comment (dhsorens) [inline CompPoly/Fields/Binary/AdditiveNTT/Impl.lean]: is it a problem that this is now noncomputable do you think @quangvdao ?

File: CompPoly/Bivariate/ToPoly.lean [hunk 4]
```diff
@@ -49,7 +49,7 @@ noncomputable def toPoly {R : Type*} [BEq R] [LawfulBEq R] [Semiring R]
   Extracts each Y-coefficient via `p.coeff`, converts to `CPolynomial R` via
   `toImpl` and trimming, then builds the canonical bivariate sum.
   -/
-def ofPoly {R : Type*} [BEq R] [LawfulBEq R] [Nontrivial R] [Semiring R]
+noncomputable def ofPoly {R : Type*} [BEq R] [LawfulBEq R] [Nontrivial R] [Semiring R]
     [DecidableEq R] (p : R[X][Y]) : CBivariate R :=
   (p.support).sum (fun j ↦
     let cj := p.coeff j
```
Comment (dhsorens) [inline CompPoly/Bivariate/ToPoly.lean]: this had to be marked noncomputable due to changes in 4.29.0 [here](https://lean-lang.org/doc/reference/latest/releases/v4.29.0/). bc ofPoly is used for proofs and not computation, I think this is fine, though if we can avoid it I wouldn't mind finding a way to avoid it

**Review by dhsorens — COMMENTED** [review]
@quangvdao if you could have a look at this PR and approve it I would appreciate it. I've looked carefully thru all the changes and am happy with them (see comments)

**Comment by quangvdao** [comment]
I have changes that can address these regressions. Let me push them then we can decide whether we should use these fixes or not?

The core issue is that the `Semiring` instance for `Polynomial R` is now explicitly marked as noncomputable in mathlib

**Comment by dhsorens** [comment]
nice, I like all these @quangvdao, they resolve all the uneasy feelings I was having on earlier changes. going to go ahead and merge this

**Comment by dhsorens** [comment]
nb the check not passing is the PR review, which was canceled after 4 mins. this failing check does not affect the integrity of the code
